US05994569
847 μl (10.2 mmol) of diphenylphosphine in 16 ml of abs. THF was deprotonated at -10° with 3.05 ml nBuLi (1.5 M, hexane). The solution was then cooled to -75° and 2.76 g (4.15 mmol) of (Z)-(3S,5S)-1-(2-chloroethylidene)-3,5-bis-(tert-butyl-diphenyl-silanyloxy)-2-methylenecyclohexane, dissolved in 16 ml of abs. THF, was added dropwise. 10 Minutes later, 190 μl of water was injected and the reaction mixture allowed to reach room temperature. All solvents were then removed i.V., the residue taken up in 33 ml of CH2Cl2 and treated with 81 ml of 5% H2O2. After stirring for 75 minutes, the layers were separated, the aqueous phase extracted with AcOEt, the organic layers washed with sodium pyrosulfite, dried over sodium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=45/55) afforded 2.534 g of (Z)-(3S,5S)-[2[-3,5-bis-(tert-butyl-diphenyl-silanyloxy)-2-methylenecyclohexylidene]-ethyl]-diphenyl-phosphine oxide as colorless foam.

reactant | diphenylphosphine | 10.2 mmol, 847 μl | C1(=CC=CC=C1)PC1=CC=CC=C1 | C12H11P
reactant | THF | C1CCOC1 | C4H8O
reactant | nBuLi | 1.5 M, 3.05 ml | [Li]CCCC
reactant | (Z)-(3S,5S)-1-(2-chloroethylidene)-3,5-bis-(tert-butyl-diphenyl-silanyloxy)-2-methylenecyclohexane | 4.15 mmol, 2.76 g | ClC\C=C\1/C([C@H](C[C@H](C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=C | C41H49ClO2Si2
solvent | water | 190 μl | O | H2O
product | (Z)-(3S,5S)-[2[-3,5-bis-(tert-butyl-diphenyl-silanyloxy)-2-methylenecyclohexylidene]-ethyl]-diphenyl-phosphine oxide | 2.534 g | C(C)(C)(C)[Si](O[C@@H]1C(\C(\C[C@@H](C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=C/CP(C1=CC=CC=C1)(C1=CC=CC=C1)=O)=C)(C1=CC=CC=C1)C1=CC=CC=C1 | C53H59O3PSi2
